US07101886B2
Starting with N-[5-(2-chloro-acetyl)-2-isopropyl-phenyl]-acetamide (0.50 g, 1.971 mmol), and 3-piperazin-1-yl-benzo[d]isothiazole hydrochloride (0.504 g, 1.971 mmol) and following the procedure as outlined in Example 517, N-{5-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-acetyl]-2-isopropyl-phenyl}-acetamide (0.480 g, 1.099 mmol) was obtained as its hydrochloride salt from treatment with dioxane/HCl(gas). Yield=56%. 100% purity at 254 nM. 1H NMR (400 MHz, DMSO-d6) δ 10.46 (bs, 1H), 9.63 (s, 1H), 8.12 (d, J=8.13 Hz, 1H), 8.09 (d, J=8.13 Hz, 1H), 7.90 (s, 1H), 7.79 (d, J=8.13 Hz, 1H), 7.61–7.52 (m, 2H), 7.45 (t, J=7.47 Hz, 1H), 5.13 (s, 2H), 4.12–4.01 (m, 2H), 3.67–3.49 (m, 8H), 3.40 (bs, H2O), 3.37–3.30 (m, 1H), 3.23 (heptet, J=6.81 Hz, 1H), 2.07 (s, 3H), 1.14 (d, J=6.81 Hz, 6H).

reactant | N-[5-(2-chloro-acetyl)-2-isopropyl-phenyl]-acetamide | 1.971 mmol, 0.50 g | ClCC(=O)C=1C=CC(=C(C1)NC(C)=O)C(C)C | C13H16ClNO2
reactant | 3-piperazin-1-yl-benzo[d]isothiazole hydrochloride | 1.971 mmol, 0.504 g | Cl.N1(CCNCC1)C1=NSC2=C1C=CC=C2
product | N-{5-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-acetyl]-2-isopropyl-phenyl}-acetamide | 1.099 mmol, 0.480 g, Yield=56% | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CC(=O)C=2C=CC(=C(C2)NC(C)=O)C(C)C | C24H28N4O2S
